US04933355
5-{1-Ethoxycarbonyl-1-[2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-yl]methylene}rhodanine-3-acetic acid sesquihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.1 g of ethyl 2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-ylglyoxylate. 0.48 9 of rhodanine-3-acetic acid. 0.25 g of ammonium chloride. 0.25 ml of 28% v/v aqueous ammonia and ml of ethanol, in the form of brown prismatic crystals having the following physical properties.

reactant | ethyl 2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-ylglyoxylate | 1.1 g | COC=1C=C(C=C(C1OC)OC)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C17H19N3O7S
reactant | rhodanine-3-acetic acid | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.25 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-[3-(3,4,5-trimethoxyphenyl)ureido]thiazol-4-yl]methylene}rhodanine-3-acetic acid sesquihydrate | O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC(=C(C(=C1)OC)OC)OC)=C1C(N(C(S1)=S)CC(=O)O)=O.O.O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC(=C(C(=C1)OC)OC)OC)=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/2C22H22N4O9S3.3H2O/c2*1-5-35-19(30)15(17-18(29)26(8-14(27)28)22(36)38-17)11-9-37-21(24-11)25-20(31)23-10-6-12(32-2)16(34-4)13(7-10)33-3;;;/h2*6-7,9H,5,8H2,1-4H3,(H,27,28)(H2,23,24,25,31);3*1H2
